US07511035B2
(c) 6-{[(2-{4-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-1-piperazinyl}ethyl)amino]methyl}-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one
To a solution of (2-{4-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-1-piperazinyl}ethyl)amine (155 mg, 0.508 mmol) in DCM-EtOH (5 mL, 1:1) were added Na2SO4 (144 mg, 1.02 mmol) and 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carbaldehyde (99 mg, 0.508 mmol). After 12 h at 25° C., the imine was quenched by addition of NaBH4 (29 mg, 0.762 mmol) in one portion. After an additional 1 h, the solution was partitioned between H2O-DCM. The aqueous phase was washed several times with DCM and the combined organic fractions were dried (Na2SO4), concentrated and purified by column chromatography (silica, 1% MeOH in DCM (1% NH4OH)) affording the title compound (73 mg, 30%) as a light yellow solid: LCMS (ES) m/e 484 (M+H)+; 1H NMR (CD3OD, 400 MHz) δ 8.46 (d, J=4.8 Hz, 1H), 8.11 (d, J=9.1 Hz, 1H), 7.74 (d, J=7.9 Hz, 1H), 7.13 (d, J=9.1 Hz, 1H), 7.07 (d, J=7.9 Hz, 1H), 4.06 (s, 3H), 3.92 (s, 2H), 3.83 (bs, 4H), 3.54 (bs, 2H), 2.88 (s, 2H), 2.66-2.72 (m, 6H).

reactant | (2-{4-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-1-piperazinyl}ethyl)amine | 0.508 mmol, 155 mg | FC=1C=NC2=CC=C(N=C2C1N1CCN(CC1)CCN)OC | C15H20FN5O
reactant | Na2SO4 | 1.02 mmol, 144 mg | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carbaldehyde | 0.508 mmol, 99 mg | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
reactant | NaBH4 | 0.762 mmol, 29 mg | [BH4-].[Na+]
solvent | DCM EtOH | 5 mL | C(Cl)Cl.CCO
product | 6-{[(2-{4-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-1-piperazinyl}ethyl)amino]methyl}-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one | 73 mg, 30% | FC=1C=NC2=CC=C(N=C2C1N1CCN(CC1)CCNCC=1C=CC=2SCC(NC2N1)=O)OC | C23H26FN7O2S
